** sch_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_analog_project/macros/dramcell_2_0/testbenches/xschem/inverter_tb_tran.sch
**.subckt inverter_tb_tran
vpulse WWL GND pulse(0 {VPWR} 50n 1n 1n 10n 2m)
VPWR VPWR GND {VPWR}
XM2 RBL PreCh VPWR VPWR sg13_lv_pmos w=1u l=0.13u ng=1 m=1 mm_ok=1
vpulse1 WBL GND pulse(0 {VPWR} 0 1n 1n 100n 2m)
vpulse2 PreCh GND pulse(0 {VPWR} 4075n 1n 1n 10n 6u)
vpulse3 RWL GND pulse(0 {VPWR} 2m 1n 1n 10n 500n)
x3 WWL WBL RWL RBL GND VPWR NodeC dramcell_2_0
XM1 ~RBL RBL VPWR VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 ~RBL RBL GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
**** begin user architecture code


*.include ../../../netlist/pex/heichips26_analog_project_magic_pex_3.spice
*.include heichips26_analog_project.save
.param VPWR=1.5
.csparam VPWR=VPWR
.param VAPWR=1.5
.csparam VAPWR=VAPWR
.param Vcm=VAPWR/2
.param temp=27
.param Cload=10p
.param Rload=1k
.param w=25u
.param l=0.13u
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-12 gmin=1e-12
.control
save all

* Operating Point Analysis
op
remzerovec
write inverter_tb_tran.raw
set appendwrite

* Transient Analysis
tran 10u 1m
write inverter_tb_tran.raw

unset appendwrite
set wr_vecnames
set wr_singlescale
*wrdata ../plot_simulations/data/inverter_tb_tran.txt

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ

**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/bah67de/git/heichips26_dram_replica/macros/heichips26_analog_project/macros/dramcell/schematic/xschem/dramcell.sym # of pins=6
** sym_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_analog_project/macros/dramcell/schematic/xschem/dramcell.sym
** sch_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_analog_project/macros/dramcell/schematic/xschem/dramcell.sch
.subckt dramcell ~W Data_in ~R Data_out VGND VPWR
*.opin Data_out
*.ipin ~W
*.ipin Data_in
*.ipin ~R
*.iopin VPWR
*.iopin VGND
XM2 net4 ~W Data_in VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 net3 ~R Data_out VPWR sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM1 VGND net4 net3 VPWR sg13_lv_pmos w={w} l={l} ng=60 m=1 mm_ok=1
*connector(8,1) ?1 net1 ?1 VPWR ?1 VGND ?1 ~W ?1 Data_in ?1 ~R ?1 Data_out ?1 net2
* noconn #net1
* noconn #net2
.ends


* expanding   symbol:  dramcell_2_0.sym # of pins=7
** sym_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_analog_project/macros/dramcell_2_0/schematic/xschem/dramcell_2_0.sym
** sch_path: /home/bah67de/git/heichips26_dram_replica/macros/heichips26_analog_project/macros/dramcell_2_0/schematic/xschem/dramcell_2_0.sch
.subckt dramcell_2_0 WWL WBL RWL RBL VGND VPWR NodeC
*.opin RBL
*.ipin WWL
*.ipin WBL
*.ipin RWL
*.iopin VPWR
*.iopin VGND
*.iopin NodeC
*connector(8,1) ?1 net1 ?1 VPWR ?1 VGND ?1 WWL ?1 WBL ?1 RWL ?1 RBL ?1 NodeC
* noconn #net1
XM4 WBL WWL NodeC VGND sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XC3 NodeC VGND cap_cmomi w=3e-6 l=3e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM5 net2 NodeC VGND VGND sg13_lv_nmos w=10u l=0.13u ng=20 m=1 mm_ok=1
XM6 RBL RWL net2 VGND sg13_lv_nmos w=1u l=0.13u ng=2 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
